US06403601B1
(g) N-[2-(4-chlorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide
To a stirred cooled (−78° C.) solution of oxalyl chloride (0.39 mL, 4.47 mmol) in DCM (10 mL) was added DMSO (0.64 mL, 9.00 mmol) in DCM (5 mL) dropwise. The solution was stirred at −78 ° C. for 5 min and a solution of N-[2-(4-chlorophenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide (1.11 g, 2.98 mmol) in DCM (6.0 mL) and DMSO (3.4 mL) was added dropwise. The solution was stirred at −78 ° C. for 15 min and triethylamine (2.50 mL, 17.9 mmol) was added. Stirring was continued at −78 ° C. for 30 min and then at room temperature for 2 h. 1N NCI (75 mL) and DCM (75 mL) were added, the layers separated, and the organic layer was dried (MgSO4), filtered, and concentrated in vacuo. Purification by chromatography (silica gel; 50% Et2O/DCM) provided the title compound (1.10 g, 95%) as a tacky solid. MS rm/z 370 (M+H).

reactant | oxalyl chloride | 4.47 mmol, 0.39 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[2-(4-chlorophenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | 2.98 mmol, 1.11 g | ClC1=CC=C(C=C1)C(CN(C(=O)C1=CC=CC=2CCCCC12)C)CCO | C22H26ClNO2
reactant | triethylamine | 17.9 mmol, 2.50 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 3.4 mL | CS(=O)C | C2H6OS
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 9.00 mmol, 0.64 mL | CS(=O)C | C2H6OS
product | N-[2-(4-chlorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | 1.10 g, 95% | ClC1=CC=C(C=C1)C(CN(C(=O)C1=CC=CC=2CCCCC12)C)CC=O | C22H24ClNO2
